US06005137
Hexachlorobenzene (35 g) was slurried in 160 ml of anhydrous ethyl ether at -40° C. A 2.5 M hexanes solution of n-butyllithium (54.1 mL) was added, and the reaction was stirred for 30 minutes at -40° C. Perfluoro-2-ethoxyacetylfluoride (40 g, 72% pure, prepared from 2-ethoxyethyl acetate by the method described in Example I of U.S. Pat. No. 5,326,919, incorporated herein by reference) was added to the -40° C. reaction mixture which was then allowed to warm slowly to room temperature. The reaction mixture was quenched with 200 mL of cold 5% aqueous HCl. The aqueous mixture was extracted with ethyl ether and the extracts were dried over MgSO4 and rotary evaporated to give pentachlorophenyl perfluoroethoxymethyl ketone (49% crude yield). Vacuum distillation (105-109° C., 240 Pa) using a 15 cm Vigreux column gave 19.7 g of a colorless liquid which slowly crystallized on standing.

reactant | Hexachlorobenzene | 35 g | ClC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C6Cl6
reactant | n-butyllithium | 54.1 mL | C(CCC)[Li]
reactant | Perfluoro-2-ethoxyacetylfluoride | FC(C(=O)F)(OC(C(F)(F)F)(F)F)F | C4F8O2
reactant | 2-ethoxyethyl acetate | C(C)(=O)OCCOCC | C6H12O3
solvent | ethyl ether | 160 ml | C(C)OCC | C4H10O
product | pentachlorophenyl perfluoroethoxymethyl ketone | FC(OC(C(F)(F)F)(F)F)(F)C(=O)C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C10Cl5F7O2
